US07935724B2
A solution of 2-(tetrahydro-pyran-2-yloxycarbamoyl)-benzo[b]thiophene-5-carboxylic acid methyl ester (131.6 mg, 0.39 mmol) in THF (2 mL) and 1M aqueous NaOH (4 mL) was allowed to stir at rt for 18 h. After removal of THF, the aqueous phase was acidified with HOAc to pH≈3. The solid formed was filtered, collected and dried to give 2-(tetrahydro-pyran-2-yloxycarbamoyl)-benzo[b]thiophene-5-carboxylic acid as a white solid. 1H NMR (DMSO-d6, 200 MHz) δ 12.04 (brs, 1H), 8.54 (s, 1H), 8.22-8.08 (m, 2H), 7.97 (dd, J=8.4, 1.2 Hz, 1H), 5.01 (s, 1H), 4.18-3.94 (m, 1H), 3.68-3.46 (m, 2H), 1.88-1.40 (m, 6H). MS (EI): cal'd 322.1 (MH+), exp 322.2 (MH+).

reactant | 2-(tetrahydro-pyran-2-yloxycarbamoyl)-benzo[b]thiophene-5-carboxylic acid methyl ester | 0.39 mmol, 131.6 mg | COC(=O)C1=CC2=C(SC(=C2)C(NOC2OCCCC2)=O)C=C1 | C16H17NO5S
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | NaOH | 1M, 4 mL | [OH-].[Na+]
product | 2-(tetrahydro-pyran-2-yloxycarbamoyl)-benzo[b]thiophene-5-carboxylic acid | O1C(CCCC1)ONC(=O)C1=CC2=C(S1)C=CC(=C2)C(=O)O | C15H15NO5S
